US08389513B2
4-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-1) and 4-chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid following procedure I yielded the title compound. MS (ISP): m/z=452.1 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F | C11H12F3N3O
reactant | 4-chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid | ClC=1C(=NN(C1)CC(F)F)C(=O)O | C6H5ClF2N2O2
product | 4-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NN(C=C1Cl)CC(F)F)(F)F | C17H15ClF5N5O2
